US04337341
A solution of 4a-(3-methoxyphenyl)-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine in 100 ml. of diethyl ether was stirred while hydrogen chloride gas was bubbled through the solution. The reaction mixture was stirred for thirty minutes and then filtered. The solid product was recrystallized from diisopropyl ether and isopropanol to provide 4a-(3-methoxyphenyl)-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindinium chloride. M.P. 175°-177° C.

reactant | 4a-(3-methoxyphenyl)-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | COC=1C=C(C=CC1)C12CCN(CC2CCC1)C | C16H23NO
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4a-(3-methoxyphenyl)-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindinium chloride | [Cl-].COC=1C=C(C=CC1)C12CC[NH+](CC2CCC1)C | InChI=1S/C16H23NO.ClH/c1-17-10-9-16(8-4-6-14(16)12-17)13-5-3-7-15(11-13)18-2;/h3,5,7,11,14H,4,6,8-10,12H2,1-2H3;1H
